US07786110B2
A solution of 4-isopropyl-thiazol-2-ylamine (2.0 g, 14 mmol) in 30 mL CHCl3 was added dropwise to a stirring solution of bromine ((2.697 g, 17 mmol) in 15 mL CHCl3. The reaction mixture was stirred for 60 hours at room temperature. The reaction mixture was poured into saturated aqueous NaHCO3, and extracted with methylene chloride. The combined organic extracts were washed with saturated aqueous NaHCO3 and brine, dried (MgSO4), filtered and concentrated under reduced pressure to give 2.05 g of 5-bromo-4-isopropyl-thiazol-2-ylamine as an oil.

reactant | 4-isopropyl-thiazol-2-ylamine | 14 mmol, 2.0 g | C(C)(C)C=1N=C(SC1)N | C6H10N2S
reactant | bromine | BrBr | Br2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-4-isopropyl-thiazol-2-ylamine | 2.05 g | BrC1=C(N=C(S1)N)C(C)C | C6H9BrN2S
